US06010826
A 500-ml flask was charged with 72.1 g (0.60 mol) of 4-hydroxystyrene, 17.1 g (0.12 mol) of t-butyl methacrylate, 1.5 g (0.009 mol) of azobisisobutyronitrile and 150 ml of dioxane, and the mixture was stirred for 100 hours at 80t in a nitrogen gas stream. The resultant reaction mixture was poured into 5 liters of xylene, and precipitate formed was collected by filtration. The resultant precipitate was dissolved in 200 ml of diethyl ether, and the solution was poured into 3 liters of n-hexane to collect precipitate formed by filtration (reprecipitation process). This reprecipitation process was repeated 3 times, and the resultant precipitate was dried to obtain 26.3 g of a 4-hydroxystyrene/t-butyl methacrylate copolymer. The GPC analysis of the polymer thus obtained revealed that its Mw was 6,410. Besides, the 1H-NMR spectrum analysis of the polymer revealed that the copolymerization ratio of 4-hydroxystyrene to t-butyl methacrylate was 71/29.

reactant | 4-hydroxystyrene | 0.60 mol, 72.1 g | OC1=CC=C(C=C)C=C1 | C8H8O
reactant | t-butyl methacrylate | 0.12 mol, 17.1 g | C(C(=C)C)(=O)OC(C)(C)C | C8H14O2
reactant | dioxane | 150 ml | O1CCOCC1 | C4H8O2
catalyst | azobisisobutyronitrile | 0.009 mol, 1.5 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | xylene | 5 liters | C=1(C(=CC=CC1)C)C | C8H10
product | 4-hydroxystyrene t-butyl methacrylate | 26.3 g | OC1=CC=C(C=C)C=C1.C(C(=C)C)(=O)OC(C)(C)C | InChI=1S/C8H14O2.C8H8O/c1-6(2)7(9)10-8(3,4)5;1-2-7-3-5-8(9)6-4-7/h1H2,2-5H3;2-6,9H,1H2
